US06262044B1
2-(4-Oxo-3,4-dihydro-2H-pyran-2-ylmethyl)-isoindole-1,3-dione (13 g, 0.051 mol) was dissolved in ethyl acetate (250 ml) and placed in a Parr bottle. 10% Pd/C (1.5 g) was carefully added and the mixture was shaken under a pressure of 30 psi of hydrogen for 6.5 h (Parr apparatus). Filtration followed by evaporation of the ethyl acetate in vacuo afforded a crude 11.5 g of 2-(4-oxo-tetrahydro-pyran-2-ylmethyl)-isoindole-1,3-dione pure enough for the next step. Analytical pure compound could be obtained by purification of a small sample (250 mg) by column chromatography on silica gel, utilising a mixture of hexane/ethyl acetate as a gradient (from 100/0 to 50/50). Pure fractions were collected and the solvent evaporated in vacuo affording 142 mg (55%) of 2-(4-oxo-tetrahydro-pyran-2-ylmethyl)-isoindole-1,3-dione as a solid.

reactant | 2-(4-Oxo-3,4-dihydro-2H-pyran-2-ylmethyl)-isoindole-1,3-dione | 0.051 mol, 13 g | O=C1CC(OC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C14H11NO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 2-(4-oxo-tetrahydro-pyran-2-ylmethyl)-isoindole-1,3-dione | 11.5 g | O=C1CC(OCC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H13NO4
